US04465831
To a solution of 6.1 g. of sodium salt of 7β-(3-oxo-4-methylvaleramido)-3-acetoxymethylceph-3-em-4-carboxylic acid in 60 ml. of glacial acetic acid, are dropped 2.1 g. of sodium nitrite dissolved in 20 ml. of water. After stirring for 2 hours at ambient temperature, there are added 200 ml. of ethyl acetate and 100 ml. of hydrochloric acid 0.1N. The phases are separated and the organic phase is washed with 50 ml. of water, made anhydrous, decolourised over charcoal and concentrated to small volume. The precipitated solid is filtered off to give 1.4 g of 7β-(2-hydroxyimino-3-oxo-4-methylvaleramido)-3-acetoxymethylceph-3-em-4-carboxylic acid melting at 156° C. (with decomposition); [α]D =+76.9° C. (c=2 in tetrahydrofuran/water 1:1).

reactant | sodium | [Na] | Na
reactant | 7β-(3-oxo-4-methylvaleramido)-3-acetoxymethylceph-3-em-4-carboxylic acid | O=C(CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C(C)C | C16H20N2O7S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7β-(2-hydroxyimino-3-oxo-4-methylvaleramido)-3-acetoxymethylceph-3-em-4-carboxylic acid | 1.4 g | ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C(C(C)C)=O | C16H19N3O8S
